US05151550
To a slurry of magnesium turnings (66 g, 2.73 g atoms) in diethyl ether (300 ml) was added a solution of 4-chlorobenzyl chloride (418 g, 2.6 moles) in diethyl ether (1500 ml) at such a rate as to maintain gentle reflux. After a further 30 minutes, a solution of 4,4,6-trimethylcyclohex-2-en-1-one (340 g, 2.46 moles) in diethyl ether (350 ml) was added, again maintaining a gentle reflux. After 1 hour the mixture was added into saturated aqueous ammonium chloride (4 liters) and the phases separated. The ether phase was back-washed with water (1 liter) and used directly in the next reaction. A small portion of 1-(4-chlorobenzyl)-4,4,6-trimethylcyclohex-2-en-1-ol was isolated for characterisation (gas chromatography analysis showed two isomers in approximately equal amounts).

reactant | magnesium | 66 g | [Mg] | Mg
reactant | 4-chlorobenzyl chloride | 2.6 moles, 418 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | 4,4,6-trimethylcyclohex-2-en-1-one | 2.46 moles, 340 g | CC1(C=CC(C(C1)C)=O)C | C9H14O
reactant | ammonium chloride | 4 liters | [Cl-].[NH4+]
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1500 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 350 ml | C(C)OCC | C4H10O
product | 1-(4-chlorobenzyl)-4,4,6-trimethylcyclohex-2-en-1-ol | ClC1=CC=C(CC2(C=CC(CC2C)(C)C)O)C=C1 | C16H21ClO
